US05158599
2-(4,6-dimethoxyprimidin-2-yl)oxy-N-(methylsulphonyl)propionamide
To a solution of 1,1-carbonyldiimidazole (1.70 g, 0.0105 mol) in dry tetrahydrofuran (130 ml), 2-(4,6-dimethoxypyrimidin-2-yl)oxypropionic acid (2.28 g, 0.01 mol), prepared as described in Example 1(b) above, in tetrahydrofuran (30 ml) was added dropwise at room temperature (~20° C.). The solution was refluxed for 1/2 hour and allowed to cool. Methanesulphonamide (0.95 g, 0.01 mol) was added in one solid portion and the mixture stirred for 15 minutes before 1,8-diazabicyclo[5.4.0]undec-7-ene (1.52 g, 0.01 mol) in tetrahydrofuran (30 ml) was added dropwise at room temperature (~20° C.). After a short duration the tetrahydrofuran was removed and the residue acidified with IM hydrochloric acid solution. The product was extracted with chloroform, backwashed with water and dried. The solvent was removed and the product purified on silica gel eluting with 3% by volume methanol/chloroform to yield the title compound as a solid (1.79 g).

reactant | 2-(4,6-dimethoxypyrimidin-2-yl)oxypropionic acid | 0.01 mol, 2.28 g | COC1=NC(=NC(=C1)OC)OC(C(=O)O)C | C9H12N2O5
reactant | Methanesulphonamide | 0.01 mol, 0.95 g | CS(=O)(=O)N | CH5NO2S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.01 mol, 1.52 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(4,6-dimethoxyprimidin-2-yl)oxy-N-(methylsulphonyl)propionamide | 1.79 g | COC1=NC(=NC(=C1)OC)OC(C(=O)NS(=O)(=O)C)C | C10H15N3O6S
